Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fever
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/o female with breast CA under chemotherapy was under her 
usual status of health until yesterday when she developed 
intermittent middle abd dull pain (___) associated with nausea 
and loose stool with no blood a few hours  after she ate a beef 
at home.  She had fever (102) and chill today. She denied 
headache, muscle-joints pain, rashes, cough, CP, SOB, dysuria, 
running nose, and sore throat.  She denied recent history of 
travel; and sick contacts.  However she reported that her 
husband also did not feel well after he ate the beef. ___ y/o 
female with breast CA under chemotherapy was under her usual 
status of health until yesterday when she developed intermittent 
middle abd dull pain (___) associated with nausea and loose 
stool with no blood a few hours  after she ate a beef at home.  
She had fever (102) and chill today. She denied headache, 
muscle-joints pain, rashes, cough, CP, SOB, dysuria, running 
nose, and sore throat.  She denied recent history of travel; and 
sick contacts.  However she reported that her husband also did 
not feel well after he ate the beef. 

in ED, she received one dose of Cefepime.

Review of Systems:  
(+) Per HPI  
(-) Review of Systems: GEN: No night sweats, recent weight loss 
or gain. HEENT: No headache, sinus tenderness, rhinorrhea or 
congestion. CV: No chest pain or tightness, palpitations. PULM: 
No cough, shortness of breath, or wheezing. GI: no heartburn, 
dysphagia, no hematochezia or melena. GUI: No dysuria or change 
in bladder habits. MSK:  No arthritis, arthralgias, or myalgias. 
DERM: No rashes or skin breakdown. NEURO: No numbness/tingling 
in extremities. PSYCH: No feelings of depression or anxiety. All 
other review of systems negative.

 
Past Medical History:
R breast CA ___ c/ L 6th rib recurrence s/p letrozole/herceptin 
(now off herceptin due to decr EF)

PSH: R breast lumpectomy

 
Social History:
___
Family History:
Her family history is  positive in a sister diagnosed at age ___ 
with breast cancer who is alive and well at ___.  Her mother had 
lung cancer, was a nonsmoker and died at ___ in ___.  Her 
father died at age ___. She has one sister ___ and a brother ___.

 
Physical Exam:
ADMISSION EXAM:
.  
VS: 99.9 109/64, P 94 R 18, SaO2 98%
GEN: AOx3, NAD
HEENT:  PERRLA. MMM. no LAD. no JVD. neck supple. No cervical, 
supraclavicular, or axillary LAD
Cards: RR S1/S2 normal. no murmurs/gallops/rubs.
Pulm: No dullness to percussion, CTAB no crackles or wheezes
Abd: BS+, soft, tender in her middle abd, no rebound/guarding, 
no HSM, no ___ sign
Extremities: wwp, no edema. DPs, PTs 2+.
Skin: no rashes or bruising
Neuro: CNs II-XII intact. ___ strength in U/L extremities. DTRs 
2+ ___. sensation intact to LT, cerebellar fxn intact (FTN, HTS). 
gait WNL.
.
DISCHARGE EXAM:
.
VS:  T: 98.2/98.9 BP: 110/72 (100s-110s/60s-80s)  HR: 75 
(70s-80s)  RR: 18  O2: 99% RA  
GEN: AOx3, interactive, NAD
HEENT:  MMM moist. Neck supple
Cards: RRR, S1/S2 normal, no murmurs/gallops/rubs.
Pulm: CTAB, no crackles or wheezes
Abd: BS+, soft, no tenderness, no rebound/guarding
Extremities: WWP, no edema.  There is a small area of faint 
erythema on the medial aspect of left arm by former IV site.  
Slightly tender to touch but overall improved
Skin: as above

 
Pertinent Results:
ADMISSION LABS:
.
___ 04:00PM BLOOD WBC-2.7*# RBC-3.63* Hgb-12.1 Hct-34.4* 
MCV-95 MCH-33.2* MCHC-35.1* RDW-13.2 Plt ___
___ 04:00PM BLOOD Neuts-75* Bands-17* Lymphs-5* Monos-2 
Eos-0 Baso-1 ___ Myelos-0
___ 04:00PM BLOOD ___ PTT-31.8 ___
___ 04:00PM BLOOD Glucose-120* UreaN-19 Creat-0.8 Na-129* 
K-4.2 Cl-92* HCO3-29 AnGap-12
___ 04:00PM BLOOD ALT-21 AST-27 AlkPhos-50 TotBili-0.7
___ 07:05AM BLOOD Albumin-3.2* Calcium-7.1* Phos-1.7* 
Mg-1.9 Iron-14*
___ 07:05AM BLOOD calTIBC-200* Ferritn-641* TRF-154*
___ 07:05AM BLOOD TSH-0.91
___ 04:05PM BLOOD Lactate-1.8
.
DISCHARGE LABS:
.
___ 05:45AM BLOOD WBC-2.3* RBC-3.43* Hgb-11.1* Hct-34.2* 
MCV-100* MCH-32.3* MCHC-32.3 RDW-13.4 Plt ___
___ 05:45AM BLOOD Neuts-6* Bands-0 Lymphs-57* Monos-30* 
Eos-0 Baso-1 Atyps-3* ___ Myelos-3*
___ 05:45AM BLOOD ___ ___
___ 05:45AM BLOOD Glucose-86 UreaN-13 Creat-0.8 Na-139 
K-4.1 Cl-105 HCO3-27 AnGap-11
___ 05:45AM BLOOD ALT-75* AST-58* LD(LDH)-190 AlkPhos-64 
TotBili-0.2
___ 05:45AM BLOOD Calcium-8.4 Phos-2.8 Mg-2.2
.
URINE:
.
___ 05:00PM URINE Color-Straw Appear-Clear Sp ___
___ 05:00PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 07:07AM URINE Hours-RANDOM Na-125 K-58 Cl-136
___ 07:07AM URINE Osmolal-583
___ 05:00PM URINE UCG-NEG
.
MICRO:
Blood culture ___: Negative
Stool culture ___: Negative
.
CXR ___: PA AND LATERAL VIEWS OF THE CHEST: The cardiac, 
mediastinal and hilar contours are normal. The patient is status 
post right mastectomy. The pulmonary vascularity is not 
engorged. Ill-defined nodular opacities are again demonstrated 
within the right lung base, which appear to correspond to 
nodules seen on prior PET CT. No focal consolidation, pleural 
effusion or pneumothorax is identified. There are no acute 
osseous findings. 
  
IMPRESSION: No acute cardiopulmonary abnormality. Ill-defined 
nodular 
opacities in the right lung base are better visualized on the 
prior PET CT. 
.
CT ABD/PELV ___: CT ABDOMEN: The visualized lung bases are 
clear. No pleural or pericardial effusion.  
  
The liver, gallbladder, spleen, pancreas, and bilateral adrenal 
glands are 
normal. The kidneys enhance symmetrically and excrete contrast 
promptly. The large bowel is normal in course and caliber. 
Normal appendix. There is mild small bowel wall thickening 
involving the jejunum without wall edema or surrounding 
stranding. 
  
The aorta is normal in course and caliber with minimal 
atherosclerotic 
calcifications. No free air and no free fluid. No mesenteric or 
retroperitoneal lymphadenopathy. 
  
CT PELVIS: The rectum, sigmoid colon, bladder, and uterus are 
normal. No 
free fluid and no pelvic or inguinal lymphadenopathy. 
  
BONE WINDOWS: No lytic or sclerotic lesion suspicious for 
malignancy is seen. 
  
IMPRESSION:  
1. Mild jejunal bowel wall thickening is nonspecific but can be 
seen in 
enteritis. Major mesenteric vessels are patent. 
2. Normal appendix. 

 
Brief Hospital Course:
___ y/o female with breast CA under chemotherapy who developed 
intermittent peribumbillical abd dull pain (___) associated 
with nausea and fevers.
.
#  Fever/diarrhea:  Felt to be most consistent with 
gastroenteritis. (likely viral, though bacterial also possible). 
 Abominal CT showed mild jejunal bowel wall thickening which was 
non-specific but could be consistent with enteritis. She was 
started on cefepime/flagyl (eventually changed to zosyn then PO 
cipro given concern for transaminitis explained below) and 
diarrhea improved over the course of admission decreasing in 
both frequency and volume.  She was maintained on IV fluids 
which were weaned off once she started tolerating a full diet.  
Stool studies were negative.  She remained afebrile throughout 
the entire admission.  However, given her neutropenia in the 
setting of her recent chemo, the decision was made to keep her 
inpatient until her symptoms resolved.  While she remained 
neutropenic throughout admission (nadiring at ___ of 12), her 
ANC was trending up to 198 on discharge, and in the setting of 
her improved clinical picture we felt she was safe for 
discharge.  Antibiotics were discontinued on discharge.   She 
was counseled heavily on returning to the hospital if abdominal 
pain/diarrhea worsened or if she developed fever.  
. 
# Elevated LFT's:  Pt noted to have uptrending LFTs with ALT/AST 
peaking at 105/123 in the setting of normal LDH and ___.  This 
was likely secondary to recent Taxotere/Cyclophosphomide vs 
cefepmie.  She denied any new abdominal symptoms besides her 
improving abdominal pain and diarrhea.  Cefepime was 
discontinued as above given that this may be contributing to her 
LFTs.  LFTs were downtrending on discharge to ALT/AST of 75/58.
.
# Left arm erythema: Pt developed a small area of faint left arm 
erythema over the medial aspect by her prior IV site.  It was 
slightly hard and tender to touch.  However this improved over 
the course of admission and nearly resolved on discharge.
.
# Breast Cancer: Pt received C1D1 of Taxotere + Cyclophosphomide 
on ___ with ANC nadiring to 12 during this admission.  She was 
continued on her home femara.  As mentioned above, given the 
improvement in her ANC and resolving symptoms, we felt she was 
ready for discharge despite still being neutropenic. She was 
counseled heavily on returning to the hospital if abdominal 
pain/diarrhea worsened or if she developed fever.
.
# Anemia:  Likely secondary to chemo.  She was not having any 
BRBPR or melena to suggest GIB.  Hct dropped from 34.4-->31 on 
admission, likely in setting of hemodilution.  Hct subsequently 
remained stable between 34-37 for remainder of admission.
.
# Hyponatremia:  Na was 129 on admission, likely hypovolemic 
given her diarrhea.  Sodium quickly improved with fluids
.
# HTN:  Pt continued on home metoprolol 100mg daily and 
valsartan 80mg daily.
.
# Depression:  Continued home effexor and prozac 
.
# Follow up/Transitional:
-Pt to follow-up with her outpatient oncologist Dr. ___ on ___
-Pt instructed to return to the hospital if abdominal 
pain/diarrhea worsened or if she develops fever.

 
Medications on Admission:
-Vitamin E 1,000 unit Cap
-Diovan 80 mg Tab
1 Tablet(s) by mouth once a day
-Grape Seed Extract 25 mg Cap
-Femara 2.5 mg Tab
1 Tablet(s) by mouth once a day
-Lorazepam 1 mg Tab
___ Tablet(s) by mouth up to bid prn
-Calcium 250 mg Tab
(dose uncertain)
-dexamethasone 4 mg Tab
1 Tablet(s) by mouth as directed Take one the night before and 
one the morning of treatment.
-Fosamax 70 mg Tab
1 Tablet(s) by mouth q wk
-Simvastatin 20 mg Tab
1 Tablet(s) by mouth 
-prochlorperazine maleate 10 mg Tab
1 Tablet(s) by mouth twice a day as needed for nausea and 
vomitting
-Effexor XR 150 mg 24 hr Cap
Capsule(s) by mouth 
-Zolpidem 10 mg Tab
1 Tablet(s) by mouth at bedtime
-Metoprolol Succinate ER 100 mg 24 hr Tab
1 Tablet(s) by mouth once a day
-Prozac 10 mg Cap
(dose uncertain)
 
 
 
 
 
Discharge Medications:
1. vitamin E 1,000 unit Capsule Sig: One (1) Capsule PO once a 
day.  
2. valsartan 80 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

3. grape seed extract 25 mg Capsule Oral
4. letrozole 2.5 mg Tablet Sig: One (1) Tablet PO daily ().  
5. lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for anxiety.  
6. calcium  Oral
7. dexamethasone 4 mg Tablet Sig: One (1) Tablet PO as directed: 
Take one the night before and one the morning of treatment. .  
8. alendronate 70 mg Tablet Sig: One (1) Tablet PO once a week.  

9. simvastatin 20 mg Tablet Sig: One (1) Tablet PO once a day as 
needed for at bed time.  
10. prochlorperazine maleate 10 mg Tablet Sig: One (1) Tablet PO 
BID (2 times a day) as needed for N/V.  
11. venlafaxine 150 mg Capsule, Ext Release 24 hr Sig: One (1) 
Capsule, Ext Release 24 hr PO once a day.  
12. zolpidem 10 mg Tablet Sig: One (1) Tablet PO at bedtime.  
13. metoprolol succinate 100 mg Tablet Extended Release 24 hr 
Sig: One (1) Tablet Extended Release 24 hr PO DAILY (Daily).  
14. fluoxetine 10 mg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
-Gastroenteritis

Secondary:
-Breast Cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

You were admitted to the hospital for fevers, abdominal pain, 
and diarrhea.  We feel this was likely an infection in your GI 
tract.   You were given fluids and antibiotics, and you symptoms 
improved. 

Your blood counts were low (neutropenic) which is to be expected 
with your recent chemo.  However, we wanted to observe you in 
the hospital given your diarrhea, to ensure you were not having 
worsening infection.  

Your blood count and symptoms began to improve and we feel you 
are ready for discharge.

Please note that you should return to the hospital if you 
develop more fevers or worsening abdominal pain and diarrhea.

We did not change any of your medications.

Please note your follow up appointments below.
 
Followup Instructions:
___